US06716851B2
4-(5-Amino-2-methylanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine
To a solution of 4-(2-methyl,5-nitroanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine (377 mg, 1.00 mmol) in anhydrous ethanol (20 ml) was added slowly anhydrous tin chloride (758 mg, 4.00 mmol). The mixture was refluxed for 1 h and then rotary evaporated to leave a brown oil. The brown oil was basified with aqueous 2N NaOH to give a final pH of 8. The resulting precipitate was filtered and washed with ethyl acetate. The aqueous phase and organic phase was combined and washed with water (1×20 ml) and dried over anhydrous sodium sulfate. The ethyl acetate solution was rotary evaporated to dryness to give a brown solid (212 mg, 57%). 1H NMR (CDCl3): 8.76 (dd, J=1.8, 4.8 Hz, 2H), 8.26 (dd, J=1.8, 4.8 Hz, 2H), 7.11 (d, J=7.8 Hz, 1H), 7.12 (s, 1H), 6.69 (d, J=2.4 Hz, 1H), 6.66 (s, 1H), 6.63 (dd, J=2.4, 8.1 Hz, 1H), 3.72 (bs, 2H), 2.16 (s, 3H).

reactant | 4-(2-methyl,5-nitroanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine | 1.00 mmol, 377 mg | CC1=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=CC=NC=C2)C=C(C=C1)[N+](=O)[O-] | C17H12F3N5O2
reactant | tin chloride | 4.00 mmol, 758 mg | [Sn](Cl)(Cl)(Cl)Cl
reactant | NaOH | 2N | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-(5-Amino-2-methylanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine | 212 mg, 57% | NC=1C=CC(=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=CC=NC=C2)C1)C | C17H14F3N5
